US07973012B2
(1) Preparation of (1S)-1-[5-[4-[(1E)-3-[[benzyloxy carbonyl amino(benzyloxycarbonylimino)methyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol
To an acetonitrile solution (3 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol (271 mg, 0.305 mmol) were added dibenzyl[(Z)-(allylamino)methylylidene]biscarbamate (335 mg, 0.914 mmol), palladium(II) acetate (18 mg, 0.0791 mmol), tri-O-tolylphosphine (61 mg, 0.201 mmol) and triethylamine (154 mg, 1.52 mmol), and reacted at 120° C. for 20 minutes with microwave manufactured by Biotage. The reaction solution was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain the title compound (163 mg, 46%) as a pale yellow amorphous compound.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol | 0.305 mmol, 271 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)Br)C)OCC1=CC=CC=C1 | C55H53BrO6
reactant | dibenzyl[(Z)-(allylamino)methylylidene]biscarbamate | 0.914 mmol, 335 mg | C(C1=CC=CC=C1)OC(N\C(=N/C(OCC1=CC=CC=C1)=O)\NCC=C)=O | C20H21N3O4
reactant | tri-O-tolylphosphine | 0.201 mmol, 61 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | triethylamine | 1.52 mmol, 154 mg | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.0791 mmol, 18 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (1S)-1-[5-[4-[(1E)-3-[[benzyloxy carbonyl amino(benzyloxycarbonylimino)methyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol | 163 mg, 46% | C(C1=CC=CC=C1)OC(=O)NC(=NC(=O)OCC1=CC=CC=C1)NC/C=C/C1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)C)C=C1 | C75H73N3O10
